US06686356B2
Step 4: Preparation of N2-benzyl-N2-methyl-4-(4-morpholinylmethyl)-1,2-benzenediamine
A mixture of N-benzyl-N-methyl-5-(4-morpholinylmethyl)-2-nitroaniline (3.3 g, 9.7 mmol) and 10% palladium charcoal (0.25 g) in ethyl acetate (100 mL) is hydrogenated (50 psi initial hydrogen pressure) until HPLC shows that reaction is complete (40 min). The solvent is evaporated to give 3.1 g of the title compound as an oil.

reactant | N-benzyl-N-methyl-5-(4-morpholinylmethyl)-2-nitroaniline | 9.7 mmol, 3.3 g | C(C1=CC=CC=C1)N(C1=C(C=CC(=C1)CN1CCOCC1)[N+](=O)[O-])C | C19H23N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium charcoal | 0.25 g | [Pd] | Pd
product | N2-benzyl-N2-methyl-4-(4-morpholinylmethyl)-1,2-benzenediamine | 3.1 g | C(C1=CC=CC=C1)N(C=1C(=CC=C(C1)CN1CCOCC1)N)C | C19H25N3O
